US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 2-[4-(3-bromo-propoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (340 mg, 0.76 mmol) in DMF (10 mL) was added pyrrolidine (433 mg, 6.08 mmol). Then, the reaction mixture was stirred at room temperature for 16 hours. Then, water was added and the solids were filtered. The solids were washed with water and dried to give the title compound as a white solid. Yield: 307 mg (92%). 1H NMR (400 MHz, DMSO-d6): δ 11.80 (s, 1H), 7.87 (s, 2H), 6.71 (d, J=2.0 Hz, 1H), 6.49 (d, J=2.0 Hz, 1H), 3.86 (s, 3H), 3.82 (m, 5H), 2.59 (t, J=6.8 Hz, 2H), 2.42 (m, 4H), 2.26 (s, 6H), 1.89 (m, 2H), 1.67 (m, 4H). MS (ES) m/z: 438.16 (M+1).

reactant | 2-[4-(3-bromo-propoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 0.76 mmol, 340 mg | BrCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C21H23BrN2O4
reactant | pyrrolidine | 6.08 mmol, 433 mg | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-Dimethyl-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C25H31N3O4
